US08258141B2
Step 5: (R)-2-Benzyloxy-N-((1S,2R,3S,4R)-4-{6-(2,2-diphenyl-ethylamino)-2-[(R)-3-(3-pyridin-3-yl-ureido)-pyrrolidin-1-yl]-purin-9-yl}-2,3-dihydroxy-cyclopentyl)-propionamide
A solution comprising (R)—N-{(1S,2R,3S,4R)-4-[2-((R)-3-amino-pyrrolidin-1-yl)-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-2-benzyloxy-propionamide (1 equivalent) and pyridin-3-yl-carbamic acid phenyl ester (Intermediate ZB) (1 equivalent) in NMP is stirred at 100° C. for 1 hour. The solvent is removed in vacuo and the title compound is obtained after purification by column chromatography/crystallisation.

reactant | (R)—N-{(1S,2R,3S,4R)-4-[2-((R)-3-amino-pyrrolidin-1-yl)-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-2-benzyloxy-propionamide | 1 equivalent | N[C@H]1CN(CC1)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC([C@@H](C)OCC1=CC=CC=C1)=O)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C38H44N8O4
reactant | pyridin-3-yl-carbamic acid phenyl ester | 1 equivalent | C1(=CC=CC=C1)OC(NC=1C=NC=CC1)=O | C12H10N2O2
solvent | NMP | CN1CCCC1=O | C5H9NO
product | (R)-2-Benzyloxy-N-((1S,2R,3S,4R)-4-{6-(2,2-diphenyl-ethylamino)-2-[(R)-3-(3-pyridin-3-yl-ureido)-pyrrolidin-1-yl]-purin-9-yl}-2,3-dihydroxy-cyclopentyl)-propionamide | C(C1=CC=CC=C1)O[C@@H](C(=O)N[C@@H]1[C@H]([C@H]([C@@H](C1)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)N1C[C@@H](CC1)NC(=O)NC=1C=NC=CC1)O)O)C | C44H48N10O5
